US07262202B2
4-[2-(4-Fluoro-phenylamino)-pyrimidin-4-yl]-3,5-dimethyl-1H-pyrrole-2-carboxylic acid amide [44]
4-(3-Dimethylamino-acryloyl)-3,5-dimethyl-1H-pyrrole-2-carboxylic acid amide (100 mg, 0.43 mmol), 4-fluorophenylguanidine nitrate (139 mg, 0.65 mmol) and K2CO3 (94 mg, 0.68 mmol) were partially dissolved in 2-methoxyethanol (5 mL) and heated at 120° C. for 18 h. The mixture was concentrated in vacuo and purified by SiO2 chromatography (EtOAc/MeOH gradient elution). The crude product was triturated in iPr2O to afford the title compound (31 mg) as a buff solid. M.p. 93.5–96.8° C. MS: [M+H+]=326.9 (C17H16FN5O requires 325.3). 1H-NMR (DMSO-d6) δ: 2.36 (s, 3H, CH3), 2.39 (s, 3H, CH3), 6.79 (d, 1H, J=5.4 Hz, pyrimidinyl-H), 6.92 (br. s, 2H, NH), 7.07 (t, 2H, J=8.5 Hz, Ph-H), 7.76–7.78 (m, 2H, Ph-H), 8.36 (d, 1H, J=5.4 Hz, pyrimidinyl-H), 9.41 (s, 1H, NH), 11.24 (br. s, 1H, NH).

reactant | 4-(3-Dimethylamino-acryloyl)-3,5-dimethyl-1H-pyrrole-2-carboxylic acid amide | 0.43 mmol, 100 mg | CN(C=CC(=O)C=1C(=C(NC1C)C(=O)N)C)C | C12H17N3O2
reactant | 4-fluorophenylguanidine nitrate | 0.65 mmol, 139 mg | [N+](=O)(O)[O-].FC1=CC=C(C=C1)NC(=N)N
reactant | K2CO3 | 0.68 mmol, 94 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 2-methoxyethanol | 5 mL | COCCO | C3H8O2
product | 4-[2-(4-Fluoro-phenylamino)-pyrimidin-4-yl]-3,5-dimethyl-1H-pyrrole-2-carboxylic acid amide | 31 mg | FC1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C(=C(NC1C)C(=O)N)C | C17H16FN5O
